US08258149B2
To a suspension of berberine hydrochloride (400 mg, 1.08 mmol) in anhydrous diethyl ether (50 mL) at 0° C. was added phenylmagnesium chloride solution (2.8 mL, 2.7 mmol) dropwise. After stirring at 0° C. for 10 min, the reaction was quenched by adding saturated aqueous ammonium chloride solution (20 mL). The mixture was extracted with diethyl ether (2×50 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was re-crystallized from diethyl ether to afford 9,10-dimethoxy-8-phenyl-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline (300 mg, 67%). LC/MS m/e calcd for C26H23NO4 (M+H)+: 414.48, observed: 414.2; 1H NMR (400 MHz, DMSO-d6) δ ppm 2.67-2.90 (m, 3 H) 3.35-3.41 (m, 1 H) 3.49 (s, 3 H) 3.74 (s, 3 H) 5.70 (s, 1 H) 5.99 (d, J=1.52 Hz, 2 H) 5.98 (s, 1 H) 6.72 (s, 1 H) 6.80 (m, 1 H) 6.88 (m, 1 H) 7.16-7.28 (m, 4 H) 7.35 (d, J=7.07 Hz, 2 H).

reactant | berberine hydrochloride | 1.08 mmol, 400 mg | COC1=C(C2=C[N+]3=C(C=C2C=C1)C4=CC5=C(C=C4CC3)OCO5)OC.[Cl-]
reactant | phenylmagnesium chloride | 2.7 mmol, 2.8 mL | C1(=CC=CC=C1)[Mg]Cl
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 9,10-dimethoxy-8-phenyl-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline | 300 mg, 67% | COC1=C(C=CC=2C=C3N(CCC4=CC5=C(C=C34)OCO5)C(C12)C1=CC=CC=C1)OC | C26H23NO4
